US04806541
A solution of 3.1 g (0.01 mmol) of ethyl 1-cyclopropyl-1,4-dihydro-4-oxo-6,7,8-trifluoroquinoline-3-carboxylate and 3.03 g (0.03 mmol) of L-prolinol in 15 ml of N-methylpyrrolidine was stirred at 80° C. for 2.5 hours. The solvent was removed by distillation under reduced pressure and the oily residue was recrystallized from ethyl acetate/ether. The resulting ester was saponified analogously to Example 1A. There was obtained 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-[(S)-2-hydroxymethyl-1-pyrrolidinyl]-4-oxoquinoline-3-carboxylic acid, m.p. 209°-210° C.

reactant | ethyl 1-cyclopropyl-1,4-dihydro-4-oxo-6,7,8-trifluoroquinoline-3-carboxylate | 0.01 mmol, 3.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | L-prolinol | 0.03 mmol, 3.03 g | N1[C@H](CO)CCC1 | C5H11NO
solvent | N-methylpyrrolidine | 15 ml | CN1CCCC1 | C5H11N
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-[(S)-2-hydroxymethyl-1-pyrrolidinyl]-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1[C@@H](CCC1)CO)F)=O)C(=O)O | C18H18F2N2O4
